### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): functoriality of `extMk` with respect to the injective resolution

### PR DESCRIPTION
**Pull request by joelriou**
The dual statement for projective resolutions is also obtained.

---

- [x] depends on: #33358
- [x] depends on: #32816

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Injective/Extend.lean [hunk 1]
```diff
@@ -91,6 +91,35 @@ instance : R.cochainComplex.IsLE 0 := by
...
+@[reassoc]
+lemma hom'_f (n : ℤ) (m : ℕ) (h : m = n) :
+    φ.hom'.f n =
+    (R.cochainComplexXIso n m h).hom ≫ φ.hom.f m ≫ (R'.cochainComplexXIso n m h).inv := by
+  simp [hom', HomologicalComplex.extendMap_f _
+    ComplexShape.embeddingUpNat (i := m) (i' := n) (by simpa),
+    cochainComplexXIso]
+
+@[reassoc (attr := simp)]
+lemma ι'_comp :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/Injective/Extend.lean]:
```suggestion
lemma ι'_comp_hom' :
```
or `ι'_hom'` maybe? but I feel there should be `hom'` in the name.

File: Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean [hunk 2]
```diff
@@ -138,6 +138,27 @@ def self [Injective Z] : InjectiveResolution Z where
...
+  hom : I.cocomplex ⟶ I'.cocomplex
+  ι_f_zero_comp : I.ι.f 0 ≫ hom.f 0 = ((single₀ C).map f).f 0 ≫ I'.ι.f 0
+
+namespace Hom
+
+attribute [reassoc (attr := simp)] ι_f_zero_comp
+
+variable {I I'}
+@[reassoc (attr := simp)]
+lemma ι_comp {f : Z ⟶ Z'} (φ : Hom I I' f) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean]:
```suggestion
lemma ι_comp_hom {f : Z ⟶ Z'} (φ : Hom I I' f) :
```

File: Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean [hunk 3]
```diff
@@ -138,6 +138,27 @@ def self [Injective Z] : InjectiveResolution Z where
...
 
+variable {Z} {Z' : C} (I' : InjectiveResolution Z')
+
+/-- Given injective resolutions `I` and `I'` of two objects `Z` and `Z'`,
+and a morphism `f : Z ⟶ Z'`, this structure contains the data of a morphism
+`I.cocomplex ⟶ I'.cocomplex` which is compatible with `f` -/
+structure Hom (f : Z ⟶ Z') where
+  /-- A morphism between the cocomplexes -/
+  hom : I.cocomplex ⟶ I'.cocomplex
+  ι_f_zero_comp : I.ι.f 0 ≫ hom.f 0 = ((single₀ C).map f).f 0 ≫ I'.ι.f 0
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean]:
```suggestion
  ι_f_zero_comp_hom : I.ι.f 0 ≫ hom.f 0 = ((single₀ C).map f).f 0 ≫ I'.ι.f 0
```
same kind of suggestion applies for other fields of structures like this one.

**Review by robin-carlier — COMMENTED** [review]
LGTM modulo very minor naming comments.

File: Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean [hunk 4]
```diff
@@ -138,6 +138,27 @@ def self [Injective Z] : InjectiveResolution Z where
...
+
+namespace Hom
+
+attribute [reassoc (attr := simp)] ι_f_zero_comp
+
+variable {I I'}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Preadditive/Injective/Resolution.lean]:
```suggestion
variable {I I'}

```
I guess there should be a line break if it’s not a `variable … in`.

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
